Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins / Bactrim
 
Attending: ___.
 
Chief Complaint:
rash, leukopenia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old woman with a PMH of HTN and
Fibromyalgia (receives her care at ___, who
presents as a direct admit from urgent care for an expedited
workup of new neutropenia and LAD, as well as a morbiliform 
rash.

She was first seen by a PA on ___ for a pustule on her chin
which she reports was draining purulent fluid. She reportedly 
was
incidentally noted to have an associated enlarged LN near the
angle of her jaw. She was prescribed a 10d course of  Bactrim 
for
presumed lymphadenitis, which temporarily improved her symptoms.
However, upon completion of the course, she again began feeling
ill, fatigued, and nauseated. She also reports associated 
chills.
She returned to the Nurse Practitioner who noted bilateral LAD,
and ___ a second 10d course of Bactrim. 

On ___, she reports that she suddenly broke out into 
a
rash all over her body. It was pruritic, and improved minimally
with Benadryl at home.  She presented to urgent care on the day
of admission (___) for evaluation of her rash, and was found 
to
have a WBC of 1.9, ANC 1710, Cr 2.3 (baseline 0.9), Plt 302. Her
CXR showed a normal mediastinum, and a neck U/S which showed
___ LNs. 

Of note, ___ states she has been trying to lose weight with 
a
dietician since ___, and reports losing 29 pounds. She has
not taken the phentermine which was prescribed her since she has
had decreased appetite which she attributes to her current
illness. Review of records shows most recent weight of 235 lbs,
down from 261 lbs in ___ and 250 lbs in ___.

Vitals in Clinic prior to transfer T 98.4 HR 100 BP 100/67 POx
99%  
 
On the floor, ___ feels well. She reports pruritis and
chronic fatigue, but denies other symptoms. Specifically denies
CP, SOB, cough, nausea, diarrhea, constipation, abdominal pain,
night sweats, subjective fevers, or easy bleeding/bruising. The
pustule on her face has healed well. She denies frequent
infections over the past several months. 

REVIEW OF SYSTEMS:  
Complete ROS obtained and is otherwise negative. 
 
Past Medical History:
Fibromyalgia
HTN
 
Social History:
___
Family History:
Mother: deceased, pancreatic CA ___ years ago
Father: alive, prostate CA
No family history blood cancers 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VITALS: T 99.2 BP 106 / 69 HR 88 RR 16 POx 93 RA 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRLA,
neck supple. Large, tender, mobile anterior cervical chain LN
palpable at the angle of the left jaw. Mild tenderness to
palpation of the right cervical chain LNs but without a single
large palpable node. Erythematous hard palate. No mucosal
petechiae or ulcerations.  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, ___, bowel sounds present,
no organomegaly, no rebound or guarding   
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema. ___ soft tissue swelling anterior to the lateral malleoli,
___ to palpation
Skin: Morbiliform rash noted across the entire body, sparing the
palms, soles, and face. No ulcerations or blisters.
Neuro: ___ intact, ___ strength upper/lower extremities,
grossly normal sensation.   

DISCHARGE PHYSICAL EXAM
=======================
VITALS: 97.8 93/57 60 18 98 Ra 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRLA,
neck supple. Enlarged mobile anterior cervical chain LN
palpable at the angle of the left jaw. No mucosal
petechiae or ulcerations.  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, ___, bowel sounds present,
no organomegaly, no rebound or guarding   
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema. ___ soft tissue swelling anterior to the lateral malleoli,
___ to palpation
Skin: Morbiliform rash resolved on UE. Now
present on ___ only. Improved compared to presentation
No ulcerations or blisters.
Neuro: ___ intact, ___ strength upper/lower extremities,
grossly normal sensation. 
 
Pertinent Results:
ADMISSION LABS
==============
___ 11:32PM BLOOD ___ 
___ Plt ___
___ 11:32PM BLOOD ___ 
___ Im ___ 
___
___ 11:32PM BLOOD ___ ___
___ 11:32PM BLOOD ___ 
___
___ 11:32PM BLOOD ___ LD(___)-719* ___ 
___

DISCHARGE LABS
==============
___ 01:05PM BLOOD ___ 
___ Plt ___
___ 01:05PM BLOOD ___ 
___ 
___
___ 01:05PM BLOOD ___ 
___
___ 01:05PM BLOOD ___ LD(LDH)-562* ___ 
___
___ 01:05PM BLOOD ___

OTHER RELEVANT LABS
===================
___ 04:35AM BLOOD H/O ___ 
___ 04:25AM BLOOD ___
___ 04:25AM BLOOD Ret ___ Abs ___
___ 04:25AM BLOOD ___

MICRO
=====
___ 10:54 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 4:35 am Blood (EBV)

                            **FINAL REPORT ___

   ___ VIRUS ___ AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS EBNA IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS ___ AB (Final ___: 
      NEGATIVE <1:10 BY IFA. 
      INTERPRETATION: RESULTS INDICATIVE OF PAST EBV INFECTION. 
      In most populations, 90% of adults have been infected at 
sometime
      with EBV and will have measurable VCA IgG and EBNA 
antibodies.
      Antibodies to EBNA develop ___ weeks after primary 
infection and
      remain present for life. Presence of VCA IgM antibodies 
indicates
      recent primary infection. 

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE
=====================
Ms. ___ is a ___ year old woman with a PMH of HTN and 
fibromyalgia (receives her care at ___, who 
presents as a direct admit from urgent care for an expedited 
workup of new neutropenia and persistent cervical chain LAD, as 
well as a morbiliform rash which started after a second course 
of Bactrim. 

ACTIVE ISSUES:
===============
# Neutropenia
# Leukopenia
Previous records in Atrius showed a normal WBC count of 5.3 in 
___. Decreased to 1.9 with an ANC of 900 on ___ 
is reassuring that the ___ only has neutropenia and all her 
other cell lines are at baseline. The etiology of her 
neutropenia is most likely due to Bactrim use +/- possible viral 
infection, given the symptoms of fatigue, muscle pain and aches 
she has described since the beginning of ___. A malignancy 
could not be excluded so hematology was consulted. She has had 
weight loss in the last 2 months, but that was intentional. She 
has had enlarged lymph nodes, but reportedly no concerning 
features on the ultrasound from urgent care prior to admission. 
ANC on the admission day was 490, so ___ was placed on 
neutropenic precautions. Hemolysis labs negative. Atruis 
heme/onc consulted, agreed w/ assessment. ANC at discharge was 
___ and ___ was asymptomatic. EBV, CMV and G6PD tests were 
pending at the time of discharge.

#Transaminitis - ___ came with elevated LFTs (ALT 74, AST 
79, LDH 719) and likely due to Bactrim or possibly due to viral 
infection. TBili and Alk Phos have remained normal. LFTs have 
remained elevated but stable at the time of discharge. Repeat 
labs on close ___ appointments with PCP and Dr ___ 
___ recommended. An abdominal CT was considered but ultimately 
deferred.

# Morbiliform Rash Total body morbiliform rash sparing the 
palms/soles/face, pruritic, and similar to a prior rash she 
experienced after taking penicillin in the past. She has 
completed 2 courses of Bactrim, experienced symptoms on Day 7 of 
second course ___. Most likely ___. No 
ulcerations or blistering concerning for SJS/TEN. Improved by 
the time of discharge. Bactrim was added to the list of 
allergies. Hydroxyzine 25mg q6h PRN and Sarna solution was given 
for pruritus.

# ___
Baseline Creatinine 0.9 per Atrius records. Cr elevated to 2.3 
in urgent care prior to admission. Likely ___ vs Bactrim 
effect, resolved quickly after 3L NS.

# Cervical Neck Lymphadenopathy
Unilateral lymphadenopathy first noted on ___. On previous 
reports, left anterior cervical chain LN was palpable, tender, 
mobile. Ultrasound as above w/ no concerning features at urgent 
care. Most likely lymphadenitis. 

# HTN
BPs in 100s systolic on admission. Held home antihypertensives 
in the setting of elevated Creatinine and normotension. 

# Weight Loss: Held Phentermine, continued at time of d/c. 

# Fibromyalgia: Continued home Venlafaxine, home Topiramate, 
home gabapentin

# HLD: Continued home simvastatin

TRANSITIONAL ISSUES: 
- New Meds: Hydroxyzine and Sarna solution for itchiness
- Stopped/Held Meds: Hydrochlorothiazide, Losartan 
- Changed Meds: none
- ___ Labs Needed: CBC with Diff, BMP, LFTs 
on ___ and ___ 
- Incidental Findings: none 
- Discharge weight: 107.87 kg (237.81 lb) 
- Cr at discharge: 1.0
- WBC at discharge: 2.8, ___ 557

Other issues:
- ___ needs to ___ with PCP on ___ and have 
repeat labs for CBC with Diff, BMP and LFTs
- EBV, CMV, and HIV pending at time of d/c, please follow up
- ___ also needs to ___ with Dr ___ 
Heme/Onc on ___
- ___ had elevated LFTs with this admission. The etiology is 
unclear, possible due to an underlying viral infection or 
possibly a Bactrim toxicity side effect. She may benefit from a 
abdominal CT in the future if does not resolve as suggested by 
___/onc consultant.
- ___ blood pressures have been soft in the 100s during 
this admission. For this reason, we held her home 
hydrochlorothiazide and losartan. The need of these medications 
should be discussed on ___ PCP appointment
- ___ lost 29lbs in the last 2 months. She should be 
counseled regarding further weight loss regimen as the 
recommended weight loss is 1lbs per week and this abrupt weight 
loss could contribute to some of the weakness she is reporting 
during the month of ___

# CODE: Full (presumed) 
# CONTACT: 
Health care proxy/emergency contact: Daughter ___. Father ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyclobenzaprine 5 mg PO TID:PRN muscle spasm 
2. Venlafaxine XR 150 mg PO DAILY 
3. Hydrochlorothiazide 12.5 mg PO DAILY 
4. phentermine 15 mg oral DAILY 
5. Topiramate (Topamax) 50 mg PO BEFORE DINNER 
6. Simvastatin 80 mg PO QPM 
7. Losartan Potassium 25 mg PO DAILY 
8. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
9. Gabapentin 1200 mg PO QHS 
10. Gabapentin 600 mg PO BID 

 
Discharge Medications:
1.  HydrOXYzine 25 mg PO Q6H:PRN pruritis Duration: 3 Days 
RX *hydroxyzine HCl 25 mg 1 tablet by mouth every 6 hours Disp 
#*28 Tablet Refills:*0 
2.  Sarna Lotion 1 Appl TP QID:PRN pruritis, rash 
RX ___ [Sarna ___ 0.5 %-0.5 % apply to 
affected area four times a day Refills:*1 
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing  
4.  Cyclobenzaprine 5 mg PO TID:PRN muscle spasm  
5.  Gabapentin 1200 mg PO QHS  
6.  Gabapentin 600 mg PO BID  
7.  phentermine 15 mg oral DAILY  
8.  Simvastatin 80 mg PO QPM  
9.  Topiramate (Topamax) 50 mg PO BEFORE DINNER  
10.  Venlafaxine XR 150 mg PO DAILY  
11.Outpatient Lab Work
ICD 10: D70.9 Neutropenia
Please check CBC with Diff, BMP and LFTs (ALT, AST, Alk Phos and 
T Bili) on ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
=================
Neutropenia
Leukopenia
Transaminitis
Acute kidney injury
Morbiliform rash

Secondary Diagnosis
===================
Hypertension
Weight loss
Hyperlipidemia
Firbomyalgia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms ___,

It was a pleasure caring for you at ___ 
___!

WHY WERE YOU ADMITTED?
You were admitted to the hospital because your white blood count 
was very low and also you had a new rash on your body.

WHAT HAPPENED IN THE HOSPITAL?
We gave you a couple of liters of fluids since you were 
dehydrated and your kidney function returned to normal. We 
monitored your white blood count and it started to go back up 
while you were here, albeit it was still lower than normal. All 
your other cell lines (red blood cells and platelets) were 
normal indicating that your bone marrow is working normally. Dr 
___ Hematology/Oncology saw you and recommended a 
couple of studies which were normal. She also wants to see you 
for ___ next week. We think that all these effects are due 
to a reaction to Bactrim, which we have now added to your 
allergy list.

WHAT SHOULD YOU DO AT HOME?
You need to have your labs checked on ___ morning and then 
___ with your PCP (appointment already scheduled). You 
also need to ___ with Dr ___ week.
You need to continue to drink and eat to stay hydrated.
Please check in with your nutritionist and watch the amount of 
weight loss. The recommended weight loss is 1lbs per week. Your 
recent 29 lbs weight loss over 2 months may have contributed to 
some of the weakness you experienced in ___.

Thank you for allowing us be involved in your care, we wish you 
all the best!

Your ___ Team

 
Followup Instructions:
___